US06498165B1
2-[3-Fluorobenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 3-fluorobenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 320.2 (M+1). 1H NMR (500 MHz, CD3OD): δ partial 8.84 (br s, 1H); 8.39 (d, J=5.5 Hz, 1H); 7.97 (br s, 1H); 7.71 (d, J=8.2 Hz, 1H); 7.13 (d, J=10.1 Hz, 1H); 7.06 (d, J=5.5 Hz, 1H); 6.96 (m, 1H); 4.69 (s, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 3-fluorobenzylamine | FC=1C=C(CN)C=CC1 | C7H8FN
product | 2-[3-Fluorobenzylamino]-4-[benzimidazol-1-yl]pyrimidine | FC=1C=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=CC1 | C18H14FN5
